US06288120B1
(3-{[(4-Methyl-benzyl)-amino]-methyl}-phenyl)-acetic acid ethyl ester.
A solution of 4-methylbenzylamine (0.097 mL, 0.76 mmol) and (3-formyl-phenyl)-acetic acid ethyl ester (138 mg, 0.72 mmol) in MeOH (2 mL) was stirred for 3 h at room temperature. The reaction was cooled to 0° C. and NaBH4 (43 mg, 1.15 mmol) was added. After stirring at room temperature for 10 minutes, a 1:1 mixture of saturated aqueous NaHCO3:H2O was added. The product was extracted into CH2Cl2 (3×) and the organic solution was dried over MgSO4, filtered, and concentrated to yield the title compound (231 mg). 1H NMR (400 MHz, CDCl3) δ 7.13-7.30 (m, 8H), 4.14 (q, 2H), 3.83 (d, 4H), 3.78 (s, 2H), 2.34 (s, 3H), 1.25 (t, 3H); MS 298 (M+1).

reactant | 4-methylbenzylamine | 0.76 mmol, 0.097 mL | CC1=CC=C(CN)C=C1 | C8H11N
reactant | (3-formyl-phenyl)-acetic acid ethyl ester | 0.72 mmol, 138 mg | C(C)OC(CC1=CC(=CC=C1)C=O)=O | C11H12O3
reactant | NaBH4 | 1.15 mmol, 43 mg | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | H2O | O | H2O
product | (3-{[(4-Methyl-benzyl)-amino]-methyl}-phenyl)-acetic acid ethyl ester | 231 mg | C(C)OC(CC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C)=O | C19H23NO2
